US05886219
Preparation of Cyclopropane-1,1-dicarboxylic acid (CDA)
The glass pipe of the above-described apparatus is charged with 600 ml of the ion exchanger LEWATIT® SP 112 (in the H+ form) and closed on both sides by sintered glass disks. The glass flask contains 500 g of dimethyl cyclopropane-1,1-dicarboxylate (MOD, 98.8%, 3.12 mol) and 750 ml of demineralized water. At a reduced pressure of 700 mbar the contents is heated to boiling (89°-92° C.), the liquids being recirculated by pumping from the flask via the ion exchanger column. At a reflux ratio of from 8:1-15:1 methanol distills off at from 56°-58° C. After 9-10 hours the saponification is complete. After cooling, the apparatus is flushed with water. The combined aqueous solutions are then extracted with 750 ml and twice with 250 ml of methyl t-butyl ether. The ether removed by largely distillation and replaced by 850 ml of toluene. The ether is then removed by distillation completely, and CDA crystallizes in the process. The crystals are removed by filtration, washed with toluene and dried. The final weight and the analytical data are shown in Table 1.

reactant | dimethyl cyclopropane-1,1-dicarboxylate | 3.12 mol, 500 g | C1(CC1)(C(=O)OC)C(=O)OC | C7H10O4
solvent | water | 750 ml | O | H2O
product | Cyclopropane-1,1-dicarboxylic acid | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
